US04663344
A mixture of S-3-acetoxy-2-carbomethoxyphenyl dimethylthiocarbamate (0.70 g, 2.7 mmol) and 20% aqueous sodium hydroxide (60 ml) in ethanol (20 ml) was stirred at reflux temperature for 18 hours. The cooled mixture was acidified by the addition of concentrated hydrochloric acid. The resulting mixture was extracted with diethyl ether, and the combined organic extracts were washed with water, saturated aqueous sodium chloride solution, dried (sodium sulfate), and evaporated to give 2-hydroxy-6-mercaptobenzoic acid as a light brown solid; yield 0.29 g (63%).

reactant | S-3-acetoxy-2-carbomethoxyphenyl dimethylthiocarbamate | 2.7 mmol, 0.70 g | CN(C(SC1=C(C(=CC=C1)OC(C)=O)C(=O)OC)=O)C | C13H15NO5S
reactant | sodium hydroxide | 60 ml | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 2-hydroxy-6-mercaptobenzoic acid | OC1=C(C(=O)O)C(=CC=C1)S | C7H6O3S
